US04963544
A solution of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1- azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.80 g) and bromoacetone (0.3 ml) in tetrahydrofuran (8 ml) was stirred at ambient temperature for 18 hours. The mixture was concentrated under reduced pressure to give crude 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(3-acetonyl-1-imidazolio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate bromide (1.20 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1- azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.80 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1)C | C33H34N6O10S
reactant | bromoacetone | 0.3 ml | BrCC(C)=O | C3H5BrO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(3-acetonyl-1-imidazolio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate bromide | 1.20 g | [Br-].C(C(=O)C)N1C=[N+](C=C1)C[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C36H39N6O11S.BrH/c1-21(43)15-37-12-13-38(20-37)16-28-14-29(17-39(28)36(47)53-19-25-6-10-27(11-7-25)42(50)51)54-33-22(2)31-30(23(3)44)34(45)40(31)32(33)35(46)52-18-24-4-8-26(9-5-24)41(48)49;/h4-13,20,22-23,28-31,44H,14-19H2,1-3H3;1H/q+1;/p-1/t22-,23-,28+,29+,30-,31-;/m1./s1
